US06066658
Ethyl 4,5,6,7-tetrahydro-3-isopropylthio-4-oxobenzo[c]thiophene-1-carboxylate (2.50 g) was dissolved in methanol (80 ml); a solution of bromine (1.34 g) in methanol (8.6 ml) was added dropwise at room temperature. After the reaction mixture was stirred at room temperature for 2 hours, it was poured over water and extracted with ethyl acetate. The organic layer was washed with an aqueous solution of sodium thiosulfate, a saturated aqueous solution of sodium hydrogen carbonate and water in that order, and dried (MgSO4), after which the solvent was distilled off. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:5, v/v) to yield ethyl 5-bromo-4,5,6,7-tetrahydro-3-isopropylthio-4-oxobenzo[c]thiophene-1-carboxylate (2.65 g, 83.9%), which was then recrystallized from ethyl acetate-hexane. Colorless prisms. Melting point 107-108° C.

reactant | Ethyl 4,5,6,7-tetrahydro-3-isopropylthio-4-oxobenzo[c]thiophene-1-carboxylate | 2.50 g | C(C)(C)SC1=C2C(=C(S1)C(=O)OCC)CCCC2=O | C14H18O3S2
reactant | bromine | 1.34 g | BrBr | Br2
reactant | water | O | H2O
solvent | methanol | 80 ml | CO | CH4O
solvent | methanol | 8.6 ml | CO | CH4O
product | ethyl 5-bromo-4,5,6,7-tetrahydro-3-isopropylthio-4-oxobenzo[c]thiophene-1-carboxylate | 2.65 g, 83.9% | BrC1C(C=2C(=C(SC2SC(C)C)C(=O)OCC)CC1)=O | C14H17BrO3S2
